US08314081B2
To a 2000 mL dry round bottom flask were added 2-fluoro-4-methoxybenzaldehyde (25.0 g, 162.2 mmol), anhydrous AlCl3 (64.8 g, 486.8 mmol) and anhydrous CH2Cl2 (1000 mL). The mixture was stirred and refluxed for 3 days. The reaction mixture was cooled in an ice-water bath, then ice (100 g) was added very carefully into the reaction mixture to quench the excess AlCl3. Another 800 mL of cold water was added. The organic layer was separated, and the aqueous solution was extracted with MTBE (300 mL×2). The combined organic layer was concentrated, and the residual solid was dissolved in 400 mL of cold 2N aqueous NaOH and 200 mL of water. The resulting aqueous solution was extracted with MTBE (200 mL×2). The basic aqueous solution then was acidified with concentrated HCl. After filtration and drying, 2-fluoro-4-hydroxybenzaldehyde (21.5 g) was obtained as a white solid. Yield: 95%. 1H NMR (Acetone-d6, 300 MHz): δ=10.12 (s, 1H), 9.87 (s, 1H), 7.74 (t, J=8.4 Hz, 1H), 6.83 (dd, J=8.4, 1.8 Hz, 1H), 7.70 (dd, J=12.3, 2.1 Hz, 1H).

reactant | 2-fluoro-4-methoxybenzaldehyde | 162.2 mmol, 25.0 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | AlCl3 | 486.8 mmol, 64.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-4-hydroxybenzaldehyde | 21.5 g, Yield: 95% | FC1=C(C=O)C=CC(=C1)O | C7H5FO2
